US08034953B2
Step 3. N-Hydroxy-4-morpholin-4-yl-1,2,5-oxadiazole-3-carboximidoyl chloride
A solution of N′-hydroxy-4-morpholin-4-yl-1,2,5-oxadiazole-3-carboximidamide (66 mg, 0.3 mmol) in 6.0 M HCl (0.62 mL) at 5-10° C. was treated with a solution of sodium nitrite (32 mg, 0.47 mmol) in water (0.5 mL) dropwise and stirred for 2 h at 0° C. The suspension was filtered and the solid washed with ice water to give desired product (22 mg, 30%). The filtrate was extracted with ethyl acetate (30 mL) which was washed with brine (10 mL), filtered and concentrated to give additional product (23 mg, 32%) that contained minor impurities. The combined material was used immediately in the next step.

reactant | N′-hydroxy-4-morpholin-4-yl-1,2,5-oxadiazole-3-carboximidamide | 0.3 mmol, 66 mg | ON=C(N)C1=NON=C1N1CCOCC1 | C7H11N5O3
reactant | sodium nitrite | 0.47 mmol, 32 mg | N(=O)[O-].[Na+]
reactant | HCl | 6.0 M, 0.62 mL | Cl | ClH
solvent | water | 0.5 mL | O | H2O
product | N-Hydroxy-4-morpholin-4-yl-1,2,5-oxadiazole-3-carboximidoyl chloride | 22 mg, 30% | ON=C(C1=NON=C1N1CCOCC1)Cl | C7H9ClN4O3
